US07872028B2
Step 1. 3-(2H-pyran-4(3H,5H,6H)-ylidene)propan-1-ol
To a suspension of the phosphonium salt (90.2 g, 1.5 eq) in dry THF (1100 mL) at 0° C. under nitrogen atmosphere was added n-BuLi (2.5 M, 216 mL, 0.54 mol). The solution was stirred for 1 h, followed by addition of dihydro-2H-pyran-4(3H)-one (15 g, 0.15 mol). Stirring was continued at rt overnight. The mixture was quenched with satd aq NH4Cl, and then filtered. The filtrate was dried over Na2SO4, and concentrated under vacuum to give the crude product, which was purified by column chromatography to give the product (13.1 g, 61%). 1H NMR (CD3OD) δ 2.1-2.3 (m, 6H), 2.5 (s, 1H), 3.5-3.7 (m, 6H), 5.1-5.2 (t, 1H).

reactant | phosphonium | 90.2 g, 1.5 eq | [PH4+]
reactant | n-BuLi | 0.54 mol, 2.5 M, 216 mL | [Li]CCCC
reactant | dihydro-2H-pyran-4(3H)-one | 0.15 mol, 15 g | O1CCC(CC1)=O | C5H8O2
reactant | THF | 1100 mL | C1CCOC1 | C4H8O
product | 3-(2H-pyran-4(3H,5H,6H)-ylidene)propan-1-ol | 13.1 g, 61% | O1CCC(CC1)=CCCO | C8H14O2
